Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
The patient is a ___ with hx of ETOH cirrhosis, recent
admission for cryptococcal meningitis, transferred from ___ for right-sided weakness and aphasia followed by
witnessed focal seizure resolving with Ativan.

History is obtained via the patient who may be unreliable due to
mental status, ___ records, and sign out from the tele-stroke
fellow who spoke to the husband prior to transfer.  I attempted
to reach her husband for additional history but the number and 
is
outside hospital paperwork went to a machine and the number that
the patient provided was incorrect.

The patient reports that today, at around 12 ___, she had gradual
onset of paresthesias and numbness in her right hand followed by
weakness that led to her dropping objects.  The symptoms
developed over minutes and were not associated with any pain or
headache.  At around 1 ___, she started having trouble with her
speech characterized by inability to produce any speech.  She
reports she did understand whether people were saying to her. 
She was taken to ___.  At this point, she does
not remember what happened and only remembers being transferred
to our hospital subsequently.  Per outside hospital 
documentation
and sign out, she initially underwent a code stroke for right
upper extremity weakness and aphasia with ___ stroke scale of 
15.
Tele-stroke was contacted and CT and CTA head and neck was
remarkable for only large ventricles.  She proceeded to have
right arm jerking movements consistent with focal seizure that
resolved with "several milligrams of Ativan".  Given all the
above, TPA was not recommended.  ___ stroke scale only improved
to 13 after Ativan.  She was transferred for further workup and
management of focal seizure.

More regarding her neurologic history: (The patient gives 
correct
timing of the following history but is unable to give a detailed
history and reports inaccurately that she presented with
generalized weakness,  headache, and fever)
Per the neurology consult at ___, she had a history of
intermittent headaches associated with speech difficulty in the
past.  On ___, she had onset of right arm weakness leading 
to
her dropping a shopping bag as well as slurred speech.  After
getting into her car, she had difficulty turning the car on. 
Bystanders noticed her difficulty and the patient presented to
the ___ ED where her symptoms resolved.  She endorsed 
significant
headaches over the last several days.  MRI/MRA of the brain was
performed which showed no acute infarction and normal MRA head. 
Noncon head CT reported mildly prominent lateral ventricles 
which
may have slightly increased from prior study with slightly
prominent third ventricle.  Echo showed EF of 60% with no wall
motion abnormalities, no clots. Because her workup for stroke 
was
unremarkable she was discharged with the possible diagnosis of
migraine.

Per sign out from stroke fellow in combination ___ some
confirmation from the patient, she had recurrent symptoms 
several
weeks later and was this time taken to ___ where
she reportedly also had right-sided jerking movements concerning
for focal seizure.  She had a lumbar puncture that diagnosed
cryptococcal meningitis and she was started on antiepileptic
therapy and fluconazole.  Per the OMR medications tab, she was
initially prescribed Keppra 500 mg twice daily.  Presumably,
after seeing neurology in ___ (this note not available),
she was switched to Vimpat with up titration to 100 mg twice
daily.  The patient incorrectly reports that she has remained on
the same AED since admission.  She also reports that she takes
200 mg 4 times a day of a seizure medication beginning with 
"VI".
Therefore, it is unclear if she is taking her medication
correctly.  She correctly gives the fluconazole dose as 1 tab 
per
day.

At the time of transfer, she was noted to be mildly somnolent
likely due to Ativan.  Neurologic exam per ED  note:
"Neurological alert, nonverbal. Does not hold her right arm
against gravity. Follows some commands but minimally, able to
hold the right lower extremity against gravity. Response
appropriately with sensory challenge to the left, not the right.
Pupils are equal and appears to track across the midline. Uvula
elevates in the midline"

On arrival in the ED, she told the nurse that she was having
intermittent numbness in her right hand. On my evaluation, she
says that she is asymptomatic -  with normal speech and normal
sensation/strength in her right hand.

 
Past Medical History:
ETOH Cirrhosis 
History of ETOH abuse sober for ___ years
Cryptococcal meningitis c/b right focal motor seizures ___  
 
Social History:
___
Family History:
No family hx of neurologic disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.7F, HR 70-74, 96-119/57-63, RR ___, 98% RA 
FSG 100

General: Awake, cooperative, NAD.
HEENT: NC/AT, MMM, no lesions noted in oropharynx
Neck: Supple, No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. 
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: Warm to the touch. No rashes or lesions noted.

Neurologic:

-Mental Status: Somnolent closing her eyes when not stimulated,
arousing with gentle tactile stimulation, oriented to ___
(one day off the date), reported initially at "an OR somewhere"
corrected to BI and when asked after exam where she was, she
answered correctly. Able to relate history some history with 
some
inaccuracies.  Mildly inattentive, could not perform ___
backwards - got from ___ to ___ and then started 
going
in random order. Could perform ___ backwards. Language is fluent
with intact repetition and comprehension. Normal prosody. There
was some mild dysarthria vs very mild paraphasic errors. Pt was
able to name both high and low frequency objects.  Able to read
without difficulty. Able to follow both midline and appendicular
commands - could do two step commands on second try. On the 
first
attempt, she initially extinguished to DSS - both sensory and
visual but then corrected on repeated stimulation. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with bilateral
end gaze nystagmus left more than right which does not fatigue -
no double vision. Hypometric saccades. Saccadic breakdown of
smooth pursuit. VFF to confrontation - extinguished once to DSS,
corrected with repeated testing. Fundoscopic exam revealed no
papilledema on the right, left difficult to visualize though
lateral edge was visualized as sharp.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. On testing of drift, her
right fingers cup and she pronates the right hand. Mildly slowed
finger tap on the right compared to the left. 
++Asterixis
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5- 5-    5     4   4
R  5    ___   4+ ___-  5    4+ 5-    5     --- Not
tested due to recent orthopedic toe surgery. 

-Sensory: No deficits to light touch, pinprick, vibratory sense,
proprioception throughout. Extinguished once to DSS, did not on
repeated attempt.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    0   0
R  2  2    2    0   0
No hoffmans. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Able to stand independently and take a small step. Mildly
unsteady when standing and then wanted to sit down. Mild sway
with feet together. 
======================================

DISCHARGE PHYSICAL EXAM:
Neurological exam reveals her to be alert, oriented to time,
place and person.  Speech and language are normal.  She may have
mild word finding difficulty for low frequency words such as
cuticle but she seem to make a paraphasic error and then
eventually got the word correctly.  She has a pronator drift on
the right side, otherwise full. Sensory exam is normal including 
cortical
sensation. She was able to walk with a steady gait. 
 
Pertinent Results:
ADMISSION LABS:
___ 06:30PM BLOOD WBC-3.5* RBC-3.99 Hgb-12.1 Hct-35.2 
MCV-88 MCH-30.3 MCHC-34.4 RDW-11.8 RDWSD-37.9 Plt ___
___ 06:30PM BLOOD Neuts-66.1 ___ Monos-5.8 Eos-4.3 
Baso-0.6 Im ___ AbsNeut-2.28 AbsLymp-0.79* AbsMono-0.20 
AbsEos-0.15 AbsBaso-0.02
___ 06:30PM BLOOD ___ PTT-29.4 ___
___ 06:30PM BLOOD Glucose-99 UreaN-12 Creat-0.8 Na-141 
K-4.2 Cl-101 HCO3-28 AnGap-12
___ 06:30PM BLOOD ALT-12 AST-23 AlkPhos-53 TotBili-0.2
___ 06:30PM BLOOD Lipase-88*
___ 06:30PM BLOOD cTropnT-<0.01
___ 06:30PM BLOOD Albumin-4.4 Calcium-9.3 Phos-3.6 Mg-2.1
___ 09:00PM BLOOD Ammonia-35
___ 09:00PM BLOOD TSH-0.74
___ 09:00PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 09:00PM BLOOD CRP-0.3
___ 09:00PM BLOOD HIV Ab-NEG
___ 06:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:45PM BLOOD Lactate-1.3

IMAGING:
MRI BRAIN WITH AND WITHOUT:
1. Small areas of leptomeningeal enhancement, most consistent 
with meningitis given patient history.  Other etiologies, 
including inflammatory or neoplastic process could have similar 
appearance.
2. No evidence of subarachnoid hemorrhage on MRI or CT.
3. Stable, borderline ventricular size.  Linear linear 
periventricular T2 signal abnormality, likely represents mild 
chronic small vessel ischemic changes, component of mild 
periventricular edema cannot be excluded.  No ventriculitis.
4. Paranasal sinusitis.

EEG FINAL READS PENDING. Prelim notable for periodic lateralized 
epileptiform discharges over the left temoporal reiong ___ 
Hz). 
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F with hx of ETOH cirrhosis, sober for the 
past ___ years, recent admission to ___ in ___ for cryptococcal meningitis thought to be secondary to bird 
dropping exposure complicated by seizures who was transferred 
from ___ for right-sided weakness and aphasia followed 
by witnessed focal seizure. Her exam on admission was non-focal 
except for mild paraphasias with low frequency words. She had 
been on Vimpat at home, but it was unclear what dose what was 
taking. Per pharmacy, she was written for 100mg BID, but patient 
reported taking 200mg QID. She was continued inpatient on 200mg 
BID. She had previously tried Keppra but reported that this 
caused peripheral edema, so it was switched to Vimpat. She was 
monitored on continuous EEG, which showed ___ hertz 
epileptiform discharged which did not progress to seizure 
activity. Given the breakthrough event and PLEDs, Zonisamide was 
chosen. This was chosen since she has pancytopenia and a history 
of cirrhosis, which limited AED choices. Continuous EEG showed 
improvement in lateralized discharges with the addition of 
Zonisamide. 

With regard to her cryptococcal meningitis, records were 
obtained from ___. She was deemed relatively 
immunosuppressed given her history of alcoholic cirrhosis and 
pancytopenia (unclear etiology) in the setting of bird dropping 
exposure. She underwent LP there, which showed a lymphocytic 
pleocytosis with low glucose and high protein (no exact values 
sent). Opening pressure was not measured until after she was 
started on medication, and then repeat LP showed a value of 6 cm 
H20. MRI showed left and right parietal leptomeningeal 
enhancement consistent with infectious process. Cryptococcal 
antigen positive. She was treated with Ambisome then Flucytosine 
and now on suppressive Fluconazole. 

She did have a repeat MRI brain here, which showed small areas 
of linear and nodular enhancement in the subarachnoid space at 
inferior left central and inferior postcentral sulcus, left 
frontal operculum, which, given her history, were most 
consistent with meningitis. As above, repeat LP did not show 
evidence of ongoing infection (opening pressure 13, 3 WBC w/ 
lymphocytic predominance (84%), Protein 38, Glucose 51. CSF 
cultures were negative. Notably, repeat cryptococcal antigen was 
negative. 

Lastly, she was noted to have pancytopenia, which has been seen 
back in ___ records as early as ___, though WBC on 
discharge was 1.9. This is likely secondary to Fluconazole. She 
has weekly labs drawn by her ID specialist and will follow-up 
with them regarding medication changes. 

She has appointments with neurology and ID next week in ___. 

Transitional issues:
-Increase Zonisamide as needed 
-repeat labs to ensure stabilization of cbc
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluconazole 200 mg PO Q24H 
2. LACOSamide 200 mg PO BID 

 
Discharge Medications:
1.  Zonisamide 100 mg PO QHS 
RX *zonisamide 100 mg 1 capsule(s) by mouth nightly Disp #*30 
Capsule Refills:*1 
2.  Fluconazole 200 mg PO Q24H  
3.  LACOSamide 200 mg PO BID 
RX *lacosamide [Vimpat] 200 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure 
Pancytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ with difficulty speaking, right sided 
weakness and shaking concerning for seizure. 

You were monitored on EEG which showed an area of the brain 
which has the potential for generating more seizures. Therefore, 
we continued your home Vimpat and added a second agent, 
Zonisamide. 

You had a repeat lumbar puncture which did not show any evidence 
of ongoing infection. Cryptococcal antigen was negative which 
means the infection is being treated appropriately by the 
Fluconazole. 

Notably, your white blood cell count was quite low. You should 
touch base with your infectious disease doctor next week to 
discuss any changes needed to your medications. 

You should continuing taking all medications as prescribed 
below. 

Of note, in the state of MA, you are not allowed to drive for 6 
months after a seizure with alteration of consciousness. Would 
not recommend driving until your follow-up with your neurology 
next week. He can make further recommendations based on your 
history and the laws in ___. 

Please follow-up with your PCP and neurologist in the next week. 


It was a pleasure taking care of you, 
Your ___ Neurologists
 
Followup Instructions:
___